US07378409B2
To absolution of tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-(3-methyl-1,2,4-oxadiazol-5-yl)cyclohexylcarbamate (250 mg) in CH2Cl2 (10 mL) was added TFA (3 mL) at RT. The reaction was stirred for 5 h and concentrated in vacuo. The residue was partitioned between 1N NaOH (30 mL) and EtOAc (40 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the organic phases were combined, washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated in vacuo to give benzyl (1S,2R,4R)-4-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)cyclohexylcarbamate. MS found: (M+H)+=331.

reactant | tert-butyl (1R,3R,4S)-4-((benzyloxycarbonyl)amino)-3-(3-methyl-1,2,4-oxadiazol-5-yl)cyclohexylcarbamate | 250 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)C1=NC(=NO1)C | C22H30N4O5
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl (1S,2R,4R)-4-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)cyclohexylcarbamate | N[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)C1=NC(=NO1)C | C17H22N4O3
